US04033947
7-chloro-5-phenyl-1H-1,5-benzodiazepin-4-one-2-thione
A solution of 28.6 g of 7-chloro-5-phenyl-1H-1,5-benzodiazepine-2,4-dione and 23.3 g of phosphorus pentasulfide in 250 ml of pyridine is refluxed, with stirring, for 40 minutes under argon. The solvent is evaporated in vacuo.

reactant | 7-chloro-5-phenyl-1H-1,5-benzodiazepine-2,4-dione | 28.6 g | ClC1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=O)C=C1 | C15H11ClN2O2
reactant | phosphorus pentasulfide | 23.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 7-chloro-5-phenyl-1H-1,5-benzodiazepin-4-one-2-thione | ClC1=CC2=C(NC(CC(N2C2=CC=CC=C2)=O)=S)C=C1 | C15H11ClN2OS
